US05604183
2-[1-[4-trans-(4-Chlorophenyl)-but-3-enyloximino]-propyl]-3-hydroxy-5-(1-methylthiocyclopropyl)-2-cyclohexen-1-one (compound 1.3)
A mixture of 2.0 g (7.9 mmol) of 3-hydroxy-5-(1-methylthiocyclopropyl)-2-propionyl-2-cyclohexen-1-one, 1.8 g (9.0 mmol) of O-[4-trans-(4-chlorophenyl)-but-3-enyl]-hydroxylamine and 100 ml of methanol was stirred for 24 hours and then evaporated down under reduced pressure. Yield: 100%

reactant | 3-hydroxy-5-(1-methylthiocyclopropyl)-2-propionyl-2-cyclohexen-1-one | 7.9 mmol, 2.0 g | OC1=C(C(CC(C1)C1(CC1)SC)=O)C(CC)=O | C13H18O3S
reactant | O-[4-trans-(4-chlorophenyl)-but-3-enyl]-hydroxylamine | 9.0 mmol, 1.8 g | ClC1=CC=C(C=C1)/C=C/CCON | C10H12ClNO
solvent | methanol | 100 ml | CO | CH4O
product | 2-[1-[4-trans-(4-Chlorophenyl)-but-3-enyloximino]-propyl]-3-hydroxy-5-(1-methylthiocyclopropyl)-2-cyclohexen-1-one | Yield: 100% | ClC1=CC=C(C=C1)/C=C/CCON=C(CC)C=1C(CC(CC1O)C1(CC1)SC)=O | C23H28ClNO3S
